US04948809
4-Chlorobenzenesulphonic acid-(4-formylphenethylamide)
Into a solution of 12.8 g. (59.4 mmole) pyridinium chlorochromate and 250 ml. methylene chloride are introduced, with stirring at ambient temperature, 14.0 g. (39.6 mmole) 4-chlorobenzenesulphonic acid-[4-(3-hydroxypropyl)-phenethylamide]. The reaction mixture is stirred for a further hour and then poured off from insolubles. The methylene chloride phase is chromatographed with a short column (silica gel/methylene chloride) and evaporated. Yield 10.8 g. (78% of theory); m.p. 65°-66° C. Oxime: m.p. 156°-158° C. (recrystallised from toluene).

reactant | pyridinium chlorochromate | 59.4 mmole | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 4-chlorobenzenesulphonic acid-[4-(3-hydroxypropyl)-phenethylamide] | 39.6 mmole | OCCCC1=CC=C(CCNS(=O)(=O)C2=CC=C(C=C2)Cl)C=C1 | C17H20ClNO3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Chlorobenzenesulphonic acid-(4-formylphenethylamide) | C(=O)C1=CC=C(CCNS(=O)(=O)C2=CC=C(C=C2)Cl)C=C1 | C15H14ClNO3S
